US07612211B2
E. 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide
A 5-L 4-neck round bottom flask equipped with a thermocouple, heating mantle, mechanical stirrer, reflux condenser with gas outlet, and a nitrogen inlet adapter was charged with N-tert-butyl-2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide (150.0 g, 0.298 mol) and HCl in isopropyl alcohol (IPA) (5-6 M, 2.51 L). The reaction was warmed step-wise with stirring, first to 45° C., then 60° C., and finally 72° C. Heating was continued for 12 h, after which time the heat was turned off, and the reaction allowed to cool to room temperature. HPLC analysis showed there to be about 1.8% of N-tert-butyl-2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide remaining. The reaction was chilled in an ice bath to 4° C., the solid was filtered and washed with IPA (350 mL). The grayish solid (159.2 g) was air-dried for a short while. During this drying, a 22-L 4-neck round bottom flask equipped with a mechanical stirrer was assembled and charged with aqueous sodium bicarbonate (saturated, 3 L) and EtOAc (12 L). The grayish solid was added to the stirred biphasic mixture and within 5 minutes, was completely dissolved. The mixture was transferred to a 22-L separatory funnel and the layers were separated. The aqueous layer (pH 8.5) was discarded. The organic layer was washed with aqueous sodium bicarbonate (saturated, 1 L), brine (half-saturated, 1 L), dried (Na2SO4) between 4×4 L Erlenmeyer flasks, and filtered over fresh Na2SO4. The dried EtOAc layer-containing product was placed in a 22-L rotary evaporator flask with Si-thiol functionalized silica gel (Silicycle, 150 g) and swirled in a 45° C. for 1 h. The silica gel was removed by filtration (sintered glass funnel), washed with ad lib EtOAc, and evaporated on a large rotary evaporator. Towards the end of the evaporation, MeCN (1 L) was added to the suspension to assist the azeotropic distillation of residual EtOAc. Evaporation was complete when no liquid distilled at a vacuum of 65 torr. The flask containing the whitish brown solid (125.3 g) was placed in a 22-L heating mantle and carefully heated with MeCN (2200 mL) with the aid of a large paddle stirrer. The completely clear, boiling yellow solution was quickly filtered though a coarse-sintered glass funnel into a 4 L heavy-walled side arm flask. A stir bar was added, the solution was stirred while crystallization ensued and the suspension came to room temperature (approx 2.5 h). The suspension was chilled for 30 min, filtered and washed with MeCN (up to 300 mL). After 15 min air-drying there was afforded 118.0 g (88.5% isolated yield; 98.2-99.5%, HPLC area %) of the title compound as a brilliant white solid. 1H-NMR (400 MHz, CD3Cl) δ (ppm) 8.13 (dd, 1H, J=1.2 and 8.4 Hz) 7.77 (d, 1H, J=0.8 Hz) 7.71 (d, 1H, 7.6 Hz) 7.66-7.61 (m, 3H) 7.56 (td, 1H, J=1.2 and 8.4 Hz) 7.65 (dd, 1H, J=1.6 and 8.4 Hz) 7.39 (dd, 1H, J=1.6 and 7.6 Hz) 7.27 (d, 2H, J=8.4 Hz) 5.58 (s, 2H). MS (ESI, pos. ion) m/z: 448.1 (M+1).

reactant | N-tert-butyl-2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide | 0.298 mol, 150.0 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H24F3N3O3S
reactant | HCl | Cl | ClH
solvent | isopropyl alcohol | 5-6 M, 2.51 L | C(C)(C)O | C3H8O
product | 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzenesulfonamide | yield; 98.2-99.5% | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)S(=O)(=O)N)C=C1)(F)F | C21H16F3N3O3S
